US06642226B2
Rac-cis-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-morpholin-4-yl-methanone
The title compound, MS: m/e=599.1 (M+H+), was prepared in accordance with the general method of example 38 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone and 4-morpholine carbonyl chloride.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Rac-cis-{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-morpholin-4-yl-methanone | FC(C=1C=C(C(=O)N2C[C@H]([C@H](CC2)N2CCN(CC2)C(=O)N2CCOCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C29H32F6N4O3
